US09120825B2
In an argon atmosphere, 7.57 g (22.0 mmol) of Si(tOctNCHCHNtOct)(H)Cl was dissolved in 30 mL of tetrahydrofuran and after adding 2.14 g (purity: 96%, 31.6 mmol) of sodium cyanate, the mixture was stirred for 18 hours under heating and refluxing. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 117° C./73 Pa) to obtain 2-isocyanato-1,3-bis(1,1,3,3-tetramethylbutyl)-1,3-diaza-2-silacyclopent-4-ene (Si(tOctNCHCHNtOct)(H)NCO) as a colorless liquid (yielded amount: 6.91 g, yield: 89%).

reactant | 2-chloro-1,3-bis(1,1,3,3-tetramethylbutyl)-1,3-diaza-2-silacyclopent-4-ene | 22.0 mmol, 7.57 g | Cl[SiH]1N(C=CN1C(CC(C)(C)C)(C)C)C(CC(C)(C)C)(C)C | C18H37ClN2Si
reactant | sodium cyanate | 31.6 mmol, 2.14 g | [O-]C#N.[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-isocyanato-1,3-bis(1,1,3,3-tetramethylbutyl)-1,3-diaza-2-silacyclopent-4-ene | yield: 89% | N(=C=O)[SiH]1N(C=CN1C(CC(C)(C)C)(C)C)C(CC(C)(C)C)(C)C | C19H37N3OSi
